US04271167
A solution of potassium borohydride (5.4 g) in distilled water (35 cc) is added, at a maximum of 20° C., to a suspension of 4-hydroxy-4-hydroxymethyl-3-(pyrid-2-yl)-thiazolidine-2-thione (23.8 g) in anhydrous acetonitrile (240 cc). The reaction is allowed to proceed for 30 minutes at 20° C. An 8.5 N aqueous solution of hydrochloric acid (12 cc) is added at a maximum of 20° C. The acetonitrile is evaporated off under reduced pressure (20 mm Hg) at 45° C. The aqueous phase is extracted 3 times with chloroform (500 cc in total). The organic solution is washed with distilled water (100 cc), dried over sodium sulphate and evaporated. The resulting product (21.2 g) is purified by crystallisation from a mixture of methylene chloride (100 cc) and isopropyl ether (50 cc). After drying in the atmosphere for 16 hours, yellow crystals (13 g), which melt at 96° C., are obtained and these are purified again by recrystallisation from a boiling mixture of acetonitrile (75 cc) and isopropyl ether (20 cc). After filtering the boiling solution and then cooling for 2 hours at 2° C., the crystals which have appeared are filtered off, washed with an ice-cooled mixture (25 cc in total) of acetonitrile (20 cc) and isopropyl ether (5 cc) and dried under reduced pressure (0.1 mm Hg) at 45° C. 2,3-Dihydroxy-propyl pyrid-2-yldithiocarbamate (10.2 g), which melts at 98° C., is thus obtained.

reactant | potassium borohydride | 5.4 g | [BH4-].[K+]
reactant | 4-hydroxy-4-hydroxymethyl-3-(pyrid-2-yl)-thiazolidine-2-thione | 23.8 g | OC1(N(C(SC1)=S)C1=NC=CC=C1)CO | C9H10N2O2S2
reactant | hydrochloric acid | 12 cc | Cl | ClH
solvent | water | 35 cc | O | H2O
solvent | acetonitrile | 240 cc | C(C)#N | C2H3N
product | 2,3-Dihydroxy-propyl pyrid-2-yldithiocarbamate | 10.2 g | N1=C(C=CC=C1)NC(SCC(CO)O)=S | C9H12N2O2S2
